US07034039B2
To a solution of ethyl diethylphosphonoacetate (1.0 mL, 5 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (0.20 g, 5 mmol) (60% in oil), and the mixture was stirred at room temperature for 10 min. To the obtained mixture was added a solution of tert-butyl (6-formyl-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (2.17 g, 5 mmol) in N,N-dimethylformamide (20 mL) and the mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give ethyl (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenate (2.03 g, 71.7%) as an amorphous.

reactant | ethyl diethylphosphonoacetate | 5 mmol, 1.0 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 5 mmol, 0.20 g | [H-].[Na+]
reactant | tert-butyl (6-formyl-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 5 mmol, 2.17 g | C(=O)C=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C26H30N2O4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenate | 2.03 g, 71.7% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)/C=C/C(=O)OCC)=O)CC(C)C | C30H36N2O5
